2108-09-23 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2108-9-22**] 03:33 PM
 ENDOSCOPY - At [**2108-9-22**] 07:03 PM
 NUCLEAR MEDICINE - At [**2108-9-23**] 12:14 AM
   red cell tag
   -total products upon transfer to MICU:
   11 units PRBC, 2 bags platelets, 2 unit FFP
   -positive tagged RBC scan at splenic flexure-->angio called
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-9-22**] 09:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-23**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.3
C (95.5
   HR: 60 (60 - 107) bpm
   BP: 120/58(69) {92/37(53) - 162/97(104)} mmHg
   RR: 10 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  3,622 mL
                                                                  1,571 mL
   PO:
           TF:
   IVF:
                                                                    283 mL
                                                                    132 mL
   Blood products:
                                                                  3,339 mL
                                                                  1,439 mL
   Total out:
                                                                  1,395 mL
                                                                    360 mL
   Urine:
                                                                  1,395 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,227 mL
                                                                  1,211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.37/55/218/31/5
   Ve: 6.3 L/min
   PaO2 / FiO2: 727
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) OG tube
   Cardiovascular: (S1: No(t) Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   70 K/uL
   12.3 g/dL
   118 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.3 mEq/L
   33 mg/dL
   104 mEq/L
   142 mEq/L
   36.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2108-9-22**]  02:26 PM
                             [**2108-9-22**]  04:38 PM
                             [**2108-9-22**]  07:05 PM
                             [**2108-9-22**]  09:51 PM
                             [**2108-9-23**]  01:03 AM
                             [**2108-9-23**]  06:22 AM
   WBC
   6.9
   7.9
   6.3
   8.7
   8.8
   Hct
   19.7
   24.8
   21.6
   27.3
   28.8
   36.2
   Plt
   84
   67
   51
   59
   70
   Cr
   1.5
   TCO2
   33
   Glucose
   118
   Other labs: PT / PTT / INR:14.6/30.2/1.3, Fibrinogen:409 mg/dL, Lactic
   Acid:1.2 mmol/L
   Imaging: EGD: Esophagus: Normal esophagus.
   Stomach: Normal stomach.
   Duodenum: Normal duodenum.
   Other findings: Bile was seen in the stomach. No evidence of bleeding
   was found.
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Assessment and Plan
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   .
   # ACUTE BLOOD LOSS ANEMIA - Brisk bleed as evidenced by melena, rapid
   CRIT drop overnight in pt w/ hx of GI bleed and recent antiplatelet
   agents. EGD negative, s/p angiogram and embolization of [**Female First Name (un) **]. s/p
   11units PRBC, 2 bags platelets, 2 units FFP
   - IV PPI
   - 2 18gauge IV
   - aggressive resuscitation w/ blood to goal CRIT 30. Check CBC/coags
   Q4hours
   - active T&S, crossmatch
   -considering dye load w/ angiogram, IR would like us to trend
   creatinine/renal function
   .
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam. We only expect this to worsen as he receives
   blood for his acute GI bleed, so intubation and mechanical ventilation
   is necessary fo EGD.
   - Hold diuresis for now given potential for hypotension
   - Mechanical ventilation- barriers to extubation are sedation and fluid
   overload. Will check CXR to eval fluid status (good sats so far), will
   give 40mg IV lasix for diuresis if stable crits and BP
   - Cont. home digoxin- check level today
   .
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH),
   though may also be explained by receiving Plavix and integrillin. Also
   on aspirin.
   - f/u platelet Ab
   - No heparin, though not starting argatroban in absence of thrombosis
   and alternate explanation for thrombocytopenia
   - platelet transfusion with blood
   .
   # CAD - s/p PCI. Cont. Plavix, aspirin, statin as long as bleed stable.
   Will discuss with cardiology what types of stents he has and continued
   need for ASA/plavix.
   .
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   .
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   .
   #DIABETES - Insulin sliding scale.
   .
   # FEN: Blood products as above, replace lytes as needed (specifically
   calcium), NPO for now- if remains intubated, will start TF after place
   OG
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: pneumoboots
   .
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2108-9-22**] 12:39 PM
   18 Gauge - [**2108-9-22**] 04:31 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: son
   [**Name (NI) 36**] status: Full code
   Disposition:ICU

2108-09-24 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2108-9-23**] 02:54 PM
   -touched base w/ cards re: plavix/ASA, they say plavix alone x2 wks,
   then asa 325 without plavix indefinitely. if bleeding recurs and plavix
   is stopped, cards would like to be informed.   ASA was held, continued
   plavix.
   -transfusion goal is 30
   -did well on spont breathing trial at 5/0, will extubate
   -gave lasix 40 IV twice.
   -no new surgery recs as of 10pm
   -bloody bm at 1130pm, check a hct which was 33.6 from 34.4 without drop
   in bp.
   -addl red blood x250cc at 230am. checked stat crit, transfused 1uprbcs
   and crossmatched another 4. called IR who said they already tried their
   best and if he is rebleeding he needs surgery. meanwhile pt remains
   hemodynamically stable c bps 120s/70 and HR of 70-80s. Called surgery,
   they will round on him in the am and we will call them stat if any more
   bleeding. (one addl sm melanotic stool but did not re-call [**Doctor First Name 213**])
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-9-23**] 08:06 PM
   Furosemide (Lasix) - [**2108-9-23**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-24**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 72 (62 - 92) bpm
   BP: 130/61(77) {102/32(52) - 142/68(80)} mmHg
   RR: 22 (14 - 43) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,853 mL
                                                                    354 mL
   PO:
                                                                     50 mL
           TF:
   IVF:
                                                                    364 mL
                                                                     71 mL
   Blood products:
                                                                  1,439 mL
                                                                    283 mL
   Total out:
                                                                  1,900 mL
                                                                    890 mL
   Urine:
                                                                  1,900 mL
                                                                    540 mL
   NG:
   Stool:
   350 mL
   Drains:
   Balance:
                                                                    -47 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 449 (449 - 449) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.40/52/75/29/5
   Ve: 6.9 L/min
   PaO2 / FiO2: 75
   Physical Examination
   Cardiovascular: GENERAL: Pale male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctival pallor.
   NECK: Supple, no LAD, +JVD
   CARDIAC: Irregularly irregular. No m/r/g. No thrills, lifts. No S3 or
   S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Moderate crackles at bases b/l.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No guarding or rebound
   tenderness
   EXTREMITIES: 2+ edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:  2+ DP and radial pulses bilaterally.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   11.3 g/dL
   103 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.1 mEq/L
   43 mg/dL
   105 mEq/L
   143 mEq/L
   32.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2108-9-23**]  06:22 AM
                             [**2108-9-23**]  09:12 AM
                             [**2108-9-23**]  12:30 PM
                             [**2108-9-23**]  01:31 PM
                             [**2108-9-23**]  05:11 PM
                             [**2108-9-23**]  06:32 PM
                             [**2108-9-23**]  08:45 PM
                             [**2108-9-24**]  12:10 AM
                             [**2108-9-24**]  02:15 AM
                             [**2108-9-24**]  04:10 AM
   WBC
   8.8
   10.9
   11.0
   Hct
   36.2
   30.6
   34.0
   33.1
   34.4
   33.6
   32.9
   32.9
   Plt
   70
   76
   102
   Cr
   1.5
   1.6
   1.6
   1.8
   TCO2
   33
   Glucose
   120
   126
   126
   103
   Other labs: PT / PTT / INR:14.9/30.5/1.3, Fibrinogen:409 mg/dL, Lactic
   Acid:1.2 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR - final read pending,
   Bilateral effusions, increased pulm edema.  New left sided
   opacification.
   Microbiology: MRSA screen pending
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # ACUTE BLOOD LOSS ANEMIA - pt w/ hx of GI bleed and recent
   antiplatelet agents. EGD negative, s/p angiogram and embolization of
   [**Female First Name (un) **]. s/p 12units PRBC, 2 bags platelets, 2 units FFP. Brisk bleed as
   evidenced by melena again, no Hct stable, transfused one unit.  IR
   recommends surgical internvention should rebleeding become
   significant.
   - IV PPI
   - 2 18gauge IV
   - aggressive resuscitation w/ blood to goal CRIT 30. Check CBC/coags
   Q4hours
   - active T&S, crossmatch
   -considering dye load w/ angiogram, IR would like us to trend
   creatinine/renal function
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam. We only expect this to worsen as he receives
   blood for his acute GI bleed, so intubation and mechanical ventilation
   is necessary fo EGD.
   - Hold diuresis for now given potential for hypotension
   - Mechanical ventilation- barriers to extubation are sedation and fluid
   overload. Will check CXR to eval fluid status (good sats so far), will
   give 40mg IV lasix for diuresis if stable crits and BP
   - Cont. home digoxin- check level today
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH),
   though may also be explained by receiving Plavix and integrillin.
   Aspirin being held.  Plt 102 after transfusion
   - f/u platelet Ab, ? low pretest probability for HIT.
   - No heparin, though not starting argatroban in absence of thrombosis
   and alternate explanation for thrombocytopenia
   - pt s/p platelet transfusion
   # CAD - s/p PCI. Cont. Plavix, statin as long as bleed stable. Cards
   rec continuing .   plavix alone x2 wks, then asa 325 without plavix
   indefinitely.  Cards would like to be informed if bleeding recurs and
   plavix is stopped.
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   #DIABETES - Insulin sliding scale.
   # FEN: Blood products as above, replace lytes as needed (specifically
   calcium), NPO for now- if remains intubated, will start TF after place
   OG
   # ACCESS: PIV's
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-9-23**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-25 07:35:00 Physician Resident Progress Note
Chief Complaint: ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2
   15 years ago, acute exacerbation of CHF with systolic and diastolic
   dysfunction, Afib, and recent PCI now with acute GI bleed.
   24 Hour Events:
 BRONCHOSCOPY - At [**2108-9-24**] 03:15 PM
 BRONCHOSCOPY - At [**2108-9-24**] 03:40 PM
 INVASIVE VENTILATION - START [**2108-9-24**] 03:50 PM
 BLOOD CULTURED - At [**2108-9-25**] 12:16 AM
   BC peripheral x2
 URINE CULTURE - At [**2108-9-25**] 12:16 AM
   catheter sampling
 FEVER - 101.6
F - [**2108-9-25**] 12:00 AM
   -patient with LL collapse from mucus plug, bronchoscopy performed and
   patient reintubated for excessive secretions and poor cough.
   Secretions sent for sputum culture and gram stain.
   -HCT trend: 32.9 -> 35.3 -> 31.2 -> 30.8 -> 32.2 -> 29.3
   -Patient febrile to 101.2 - blood and urine Cx sent
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2108-9-24**] 03:20 PM
   Fentanyl - [**2108-9-24**] 03:30 PM
   Pantoprazole (Protonix) - [**2108-9-24**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-25**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.3
C (99.2
   HR: 60 (60 - 117) bpm
   BP: 98/41(54) {97/39(54) - 158/65(87)} mmHg
   RR: 28 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,023 mL
                                                                    880 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                    880 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  1,695 mL
                                                                    202 mL
   Urine:
                                                                  1,345 mL
                                                                    152 mL
   NG:
   50 mL
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                   -672 mL
                                                                    678 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.45/41/86.[**Numeric Identifier 143**]/28/3
   Ve: 16.5 L/min
   PaO2 / FiO2: 145
   Physical Examination
   Cardiovascular: Gen: NAD, intubated
   Cardiac: RRR, no R/g/m
   Lungs: CTAB, no w/r/r
   Abd: soft, ND, NT ABS
   Ext: edema 2+
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   10.0 g/dL
   84 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.5 mEq/L
   49 mg/dL
   109 mEq/L
   145 mEq/L
   29.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2108-9-24**]  02:15 AM
                             [**2108-9-24**]  04:10 AM
                             [**2108-9-24**]  10:30 AM
                             [**2108-9-24**]  02:05 PM
                             [**2108-9-24**]  05:46 PM
                             [**2108-9-24**]  09:23 PM
                             [**2108-9-24**]  10:03 PM
                             [**2108-9-24**]  11:31 PM
                             [**2108-9-24**]  11:52 PM
                             [**2108-9-25**]  03:04 AM
   WBC
   11.0
   8.8
   12.0
   Hct
   32.9
   32.9
   35.3
   31.2
   30.8
   32.2
   29.3
   Plt
   102
   106
   100
   Cr
   1.8
   1.9
   2.1
   TCO2
   31
   32
   29
   Glucose
   103
   69
   84
   Other labs: PT / PTT / INR:15.8/34.7/1.4, Fibrinogen:409 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.2 mg/dL
   Imaging: CXR [**9-24**]- ET tube tip is 4.5 cm above the carina, improved
   aeration with resolution of collapse of the left lung. Mild pulmonary
   edema is stable. Small bilateral pleural effusion and left-sided
   calcified pleural thickening are stable. There is no evidence of
   pneumothorax. Left transvenous pacemaker lead terminates in standard
   position in the right ventricle. The cardiomediastinum is slightly
   shifted towards the left side, suggesting the presence of some loss of
   volume/atelectasis, mainly in the left lower lobe. Sternal wires are
   aligned.
   Microbiology: BAL, Blood, Urine Cx Pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # ACUTE BLOOD LOSS ANEMIA - pt w/ hx of GI bleed and recent
   antiplatelet agents. EGD negative, s/p angiogram and embolization of
   [**Female First Name (un) **]. s/p 12units PRBC, 2 bags platelets, 2 units FFP. No more melanotic
   stools, Hct continues to trend down.  He was not transfused.  IR
   recommends surgical internvention should rebleeding become significant,
   given difficulty finding bleed at last intervention.     Pt poor
   candidate for surgical intervention unless urgent.
   - IV PPI discontinued
   - maintain access -  18gauge IV
   - aggressive resuscitation w/ blood to goal CRIT 30. Check CBC/coags
   Q4hours
   - active T&S, crossmatch
   - considering dye load w/ angiogram, Cr [**1-5**] (baseline 1.1)
   - surgery consulted in case of hemodynamic instabiltiy
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam.
   - Hold diuresis for now given hypotension
   - Cont. home digoxin- check level today
   # L lung opacification
 likely [**1-30**] to mucus plugging, pt unable to
   cough, cleared yesterday with bronchoscopy after failure of chest PT.
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH),
   though may also be explained by receiving Plavix and integrillin.
   Aspirin being held.  Plt 102 after transfusion.  Stable at 100.
   - No heparin, though not starting argatroban in absence of thrombosis
   and alternate explanation for thrombocytopenia
   - pt s/p platelet transfusion
   # CAD - s/p PCI. Cont. Plavix, statin as long as bleed stable. Cards
   rec continuing .   plavix alone x2 wks, then asa 325 without plavix
   indefinitely.  Cards would like to be informed if bleeding recurs and
   plavix is stopped.
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   #DIABETES - Insulin sliding scale.
   # FEN: Blood products as above, replace lytes as needed (specifically
   calcium), NPO for now, as pt may require bronchoscopy
   # ACCESS: PIV's
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-9-23**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-26 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2108-9-25**] 03:45 PM
 PICC LINE - START [**2108-9-25**] 04:30 PM
 SPUTUM CULTURE - At [**2108-9-25**] 08:06 PM
   -PICC line placed but  HIT Ab came back positive.  All heparin was
   discontinued.  10 mL Normal saline flushes q4 hrs were ordered to be
   given through PICC line (since its heparin coated)
   -Is overbreathing with fentanyl at 250 cc/hr and versed at 5 cc/hr.
   Venous O2 sat went from 7.59 -> 7.64 despite this.  Considering adding
   propofol in near future but holding right now and continuing course
   unclear what is causing his drive.  Recheck gas this evening around 10
   PM.
   -no note from surgery
   -started on vanc+cef+flagyl given fevers, high WBC; sputum gram stain
   is gram+ cocci in pairs
   -active type and screen maintained
   -FeNA < 1%; Cr from 1.9 --> 2.1; BUN 49
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-9-25**] 12:00 PM
   Vancomycin - [**2108-9-25**] 03:20 PM
   Metronidazole - [**2108-9-26**] 06:31 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-9-25**] 08:06 PM
   Midazolam (Versed) - [**2108-9-25**] 09:00 PM
   Fentanyl - [**2108-9-25**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-26**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.2
   HR: 60 (60 - 69) bpm
   BP: 87/45(53) {84/33(49) - 112/58(68)} mmHg
   RR: 30 (25 - 33) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 110 kg (admission): 112.2 kg
             Total In:
                                                                  3,360 mL
                                                                    545 mL
   PO:
             TF:
   IVF:
                                                                  3,240 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                    841 mL
                                                                    288 mL
   Urine:
                                                                    691 mL
                                                                    288 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,519 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 650) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.59/30/77.[**Numeric Identifier 143**]/27/7
   Ve: 14.6 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR
   Lungs: CTAB
   Ext: trace edema, 2+ pulses
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   10.1 g/dL
   76 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   54 mg/dL
   111 mEq/L
   145 mEq/L
   30.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2108-9-24**]  11:52 PM
                             [**2108-9-25**]  03:04 AM
                             [**2108-9-25**]  07:26 AM
                             [**2108-9-25**]  09:02 AM
                             [**2108-9-25**]  10:09 AM
                             [**2108-9-25**]  03:44 PM
                             [**2108-9-25**]  03:53 PM
                             [**2108-9-25**]  09:45 PM
                             [**2108-9-25**]  09:50 PM
                             [**2108-9-26**]  04:25 AM
   WBC
   12.0
   8.4
   Hct
   29.3
   30.2
   31.6
   30.6
   30.5
   Plt
   100
   149
   Cr
   2.1
   2.3
   TCO2
   29
   28
   30
   Glucose
   84
   120
   101
   76
   Other labs: PT / PTT / INR:16.4/35.6/1.5, Differential-Neuts:89.5 %,
   Lymph:6.3 %, Mono:2.9 %, Eos:1.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.6 mg/dLu
   Fluid analysis / Other labs: ABG
   pH 7.52
   pCO2 33
   pO2 72
   HCO3 28
   BaseXS 3
   Imaging: CXR showed something
   Microbiology: UA
    pyuria, mod leuk, many bacteria
   Urine cultue pending
   Blood cultures pending
   Sputum sample unsatisfactory - resent
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # Respiratory failure
 Pt still intubated after bronchoscopy for
   clearance of mucus plug.  CXR shows opacification in LLL.  Pt also has
   fever and elevated WBC, consistent with PNA.  Started Vanco, Cefepime,
   Flagyl.  Started on Contact precautions.   [**Name2 (NI) **] also has CHF and evidence
   of fluid on CXR, likely contributing to his high ventilation
   requirement.
   - continue Vanco, Cefepime, Flagyl (day 1 = [**9-25**]), 8 day course
   - started Lasix drip
   - increasing sedation to reduce overventilation and alkylosis, on max
   doses of Fenanyl and Versed, reduce sedation to increase BP.
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam.
   - Hold diuresis for now given hypotension.  He is intravascularly
   deplete, and BP not responsive to fluid bolus.
   - consider addition of levophed if BP remains low and unable to
   maintain UOP goal of 40cc/hr
   - Cont. home digoxin- check level today
   - call cardiology on whether pt should remain on digoxin
   - TTE
   #Acute renal failure
 primarily  attributed to ATN  [**1-30**] to angiogram
   IV contrast, not improving due to poor renal perfusion.  Pt has
   significant volume overload, but is intravascularly depelte.
   Maximizing cardiac output may help, however use of BB limited by
   hypotension.
   - continue to follow
   - consider addition of pressors
   # ACUTE BLOOD LOSS ANEMIA - pt w/ hx of GI bleed and recent
   antiplatelet agents.  EGD negative, s/p angiogram and embolization of
   [**Female First Name (un) **]. s/p 12units PRBC, 2 bags platelets, 2 units FFP. No more melanotic
   stools, Hct continues to trend down.  He was not transfused.  IR
   recommends surgical internvention should rebleeding become significant,
   given difficulty finding bleed at last intervention.     Pt poor
   candidate for surgical intervention unless urgent.  No significant
   melanotic stools.  Hct stable at 30.
   - PPI
   - maintain access -  PICC
   - aggressive resuscitation w/ blood to goal CRIT 30. Check CBC/coags
   Q12hours
   - active T&S, crossmatch
   - surgery consulted in case of hemodynamic instabiltiy
   - GI signed off given no active bleeding.
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH),
   though may also be explained by receiving Plavix and integrillin.
   Aspirin being held.  Plt 102 after transfusion.  Increased to 149.
   HIT Ab is positive.
   - No heparin, though not starting argatroban in absence of thrombosis
   and alternate explanation for thrombocytopenia
   - pt s/p platelet transfusion
   - PICC line is heparin coated, receiving saline flushes q4h, to prevent
   heparin effect
   - trend platelets
   # CAD - s/p PCI. Cont. Plavix, statin as long as bleed stable. Cards
   rec continuing .   plavix alone x2 wks, then asa 325 without plavix
   indefinitely.  Cards would like to be informed if bleeding recurs and
   plavix is stopped.  Pt on lipitor.
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   #DIABETES - Insulin sliding scale.
   # FEN: replace lytes as needed,  NPO for now as pt may require
   surgery.
   # ACCESS: PIV's
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-27 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2108-9-26**] 01:45 PM
 ARTERIAL LINE - START [**2108-9-26**] 04:50 PM
   -Cardiology consult: no opinon
   -TTE: There is moderate global left ventricular hypokinesis (LVEF = 35
   %). Increased left ventricular filling pressure (PCWP>18mmHg). There is
   abnormal septal motion/position consistent with right ventricular
   pressure/volume overload. moderate aortic stenosis, mild aortic and
   mild mitral regurgitation, and moderate pulmonary artery systolic
   hypertension.
   - at 2AM, he was putting out 20cc/hr, opposite of goal, reduced
   sedation, added metolazone and uptitrated lasix drip.  Worked, putting
   out 90-100cc/hr.  Creatinine bumped to 2.4, but that was at midnight
   when he had poor UOP.
   - PCP updated on pt's status
   - TF Neutren 2.0 at 10cc/hr to goal of 45cc/hr.
   - PM Hct 31.8
   - son updated on patient's status
   - continued to overbreath the respirator, due to  high minute
   ventilation, reduced tidal volume,  tolerated O2 in high 60s given h/o
   COPD.   FIO2 reduced from 50--> 40%
   - Pt's CBG 70, review of CBGs showed CBG 70s-90s. Will hold Lantus and
   switch to ISS only. Gave [**12-30**] Amp D50
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-9-26**] 12:00 PM
   Vancomycin - [**2108-9-26**] 08:05 PM
   Metronidazole - [**2108-9-27**] 06:08 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-9-26**] 08:05 PM
   Dextrose 50% - [**2108-9-27**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-27**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.6
   HR: 64 (60 - 68) bpm
   BP: 99/44(58) {97/41(56) - 145/65(87)} mmHg
   RR: 31 (27 - 36) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 110.2 kg (admission): 112.2 kg
    Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  1,617 mL
                                                                    410 mL
   PO:
   TF:
                                                                     58 mL
                                                                     50 mL
   IVF:
                                                                  1,448 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    551 mL
   Urine:
                                                                  1,295 mL
                                                                    551 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    322 mL
                                                                   -141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 500) mL
   Vt (Spontaneous): 347 (347 - 347) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.44/42/65/27/3
   Ve: 13.1 L/min
   PaO2 / FiO2: 163
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR, Nl S1/S2, no r/g/m
   Lungs: reduced breath sounds on RLL, few anterior crackles, apices
   clear
   Abd: soft, ND
   Ext: 3+ edema in upper extremties, 2+ in lower extremtiies, 2+ pulses
   in DP.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   10.5 g/dL
   82
   2.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   52 mg/dL
   112 mEq/L
   147 mEq/L
   31.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2108-9-26**]  05:42 PM
                             [**2108-9-26**]  06:04 PM
                             [**2108-9-26**]  10:29 PM
                             [**2108-9-27**]  12:13 AM
                             [**2108-9-27**]  04:00 AM
                             [**2108-9-27**]  05:00 AM
                             [**2108-9-27**]  05:17 AM
                             [**2108-9-27**]  05:55 AM
                             [**2108-9-27**]  06:06 AM
                             [**2108-9-27**]  06:08 AM
   WBC
   8.2
   Hct
   31.8
   31.9
   Plt
   171
   Cr
   2.4
   2.3
   TCO2
   27
   27
   28
   29
   Glucose
   70
   70
   82
   75
   82
   Other labs: PT / PTT / INR:15.8/36.7/1.4, Differential-Neuts:89.5 %,
   Lymph:6.3 %, Mono:2.9 %, Eos:1.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   Fluid analysis / Other labs: Digoxin 1.1
   Imaging: CXR: continued LLL obacification with obscuration of
   hemidiaphram and cardiac sillouette.  increased haziness of the right
   lower lobe and left upper lobe compared to prior.
   Microbiology: URINE CULTURE (Final [**2108-9-26**]):
         STAPH AUREUS COAG +.    >100,000 ORGANISMS/ML..
   GRAM STAIN (Final [**2108-9-26**]):
         THIS IS A CORRECTED REPORT [**2108-9-26**] ON 2130.
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Assessment and Plan
 HYPOGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # Respiratory failure
 Pt still intubated after bronchoscopy for
   clearance of mucus plug.  CXR shows opacification in LLL.  Pt also has
   fever and elevated WBC, consistent with PNA.  Started Vanco, Cefepime,
   Flagyl.  Started on Contact precautions.   [**Name2 (NI) **] also has CHF and evidence
   of fluid on CXR, likely contributing to his high ventilation
   requirement.
   - continue Vanco, Cefepime, Flagyl (day 1 = [**9-25**]), 8 day course
   - preliminary cultures show Gram positive pairs/chains, can d/c Flagyl
   - Vanco trough tomorrow
   - started Lasix drip with addition of metolazone (assess of dig
   toxicitiy with metolazone)
   - q8 lytes
   - daily metolazone with Lasix for UOP.
   - increasing sedation to reduce overventilation and alkylosis, on max
   doses of Fenanyl and Versed, reduce sedation to increase BP.
   - AM CXR
   # Urine - UA dirty, urine culture showed Staph aureus.  Sensitivities
   pending.  Pt already on broad coverage.
   - change foley today
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam.   ECHO shows significant systolic
   dysfunction, and aortic stenosis.
   - dig level 1.1, appropriate
   - call cardiology re management of CHF, digoxin seems appropriate in
   light of EF 30% ho of O2 at 4L requirement at home
   - he is preload dependent, so careful monitoring of diuresis is
   warranted
   - no BB in acute exacerbation, but should be started when out of
   pulmonary edema
   #Hypernatremia - Na 147, not receiving regular free water boluses as he
   has not been tolerating tube feeds.
   - consider D5W if does not improve.
   #Acute renal failure
 primarily  attributed to ATN  [**1-30**] to angiogram
   IV contrast, not improving due to poor renal perfusion.  Pt has
   significant volume overload, but poor perfusion.   Maximizing cardiac
   output with aggressive diuresis and digoxin.
   - continue to follow Cr
   - renally dose medications
   - consider addition of pressors if worsenining renal function,
   hyptoentsion, and  poor UOP
   # ACUTE BLOOD LOSS ANEMIA - pt w/ hx of GI bleed and recent
   antiplatelet agents.  EGD negative, s/p angiogram and embolization of
   [**Female First Name (un) **]. s/p 12units PRBC, 2 bags platelets, 2 units FFP. No more melanotic
   stools, Hct continues to trend down.  He was not transfused.  IR
   recommends surgical internvention should rebleeding become significant,
   given difficulty finding bleed at last intervention.     Pt poor
   candidate for surgical intervention unless urgent.  No significant
   melanotic stools.  Hct stable at 30.
   - continue PPI
   - maintain access -  PICC
   - aggressive resuscitation w/ blood to goal CRIT 30. Check CBC/coags
   Q12hours
   - active T&S, crossmatch
   - surgery aware  in case of hemodynamic instabiltiy
   - GI signed off given no active bleeding.
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH),
   though may also be explained by receiving Plavix and integrillin.
   Aspirin being held.  Plt 102 after transfusion.  Increased to 171.
   HIT Ab is positive.
   - No heparin, though not starting argatroban in absence of thrombosis
   and alternate explanation for thrombocytopenia
   - pt s/p platelet transfusion
   - PICC line is heparin coated, receiving saline flushes q4h, to prevent
   heparin effect
   - trend platelets
   - consider seratonin release assay to confirm HIT
   # CAD - s/p PCI. Cont. Plavix, statin as long as bleed stable. Cards
   rec continuing .   plavix alone x2 wks, then asa 325 without plavix
   indefinitely.  Cards would like to be informed if bleeding recurs and
   plavix is stopped.  Pt on lipitor.
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   #DIABETES - Insulin sliding scale.
   # FEN: replace lytes as needed,  TF started slowly, increase as
   tolerated.
   # ACCESS: PICC, RArterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-28 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HIT pre-test probability score is around [**4-1**] suggesting intermediate
   probability
   - optical density 0.764 - HIT will be pos. in [**1-2**]% of cases, 5HT assay
   to confirm, will hold off on argatroban at this point
   - dead space calculation: slightly elevated to 0.65 (normal ventilated
   patient around 0.5), decreased PEEP from [**12-6**] but minute ventilation
   remained elevated with substantial over-breathing
   - patient self extubated at 0220 AM, placed on high-flow O2 mask, goal
   > 93% in setting of known COPD, post-extub. ABG: 7.37/53/80/32
   - patient into bigeminy at 0300, VSS, spontaneously resolved
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2108-9-27**] 06:08 AM
   Cefipime - [**2108-9-27**] 12:00 PM
   Vancomycin - [**2108-9-27**] 07:45 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-28**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 87 (60 - 87) bpm
   BP: 112/49(69) {97/39(57) - 127/57(79)} mmHg
   RR: 25 (22 - 50) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.2 kg (admission): 112.2 kg
             Total In:
                                                                  1,219 mL
                                                                    150 mL
   PO:
             TF:
                                                                     50 mL
   IVF:
                                                                    934 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,191 mL
                                                                  1,340 mL
   Urine:
                                                                  3,191 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,972 mL
                                                                 -1,190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 92%
   ABG: 7.37/53/80.[**Numeric Identifier 176**]/29/3
   Ve: 11.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   231 K/uL
   11.3 g/dL
   77 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.6 mEq/L
   52 mg/dL
   109 mEq/L
   147 mEq/L
   34.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2108-9-27**]  05:55 AM
                             [**2108-9-27**]  06:06 AM
                             [**2108-9-27**]  06:08 AM
                             [**2108-9-27**]  08:00 AM
                             [**2108-9-27**]  01:31 PM
                             [**2108-9-27**]  01:47 PM
                             [**2108-9-27**]  04:54 PM
                             [**2108-9-27**]  05:07 PM
                             [**2108-9-28**]  03:12 AM
                             [**2108-9-28**]  03:24 AM
   WBC
   9.0
   Hct
   33.5
   34.0
   Plt
   231
   Cr
   2.3
   2.3
   2.4
   TCO2
   29
   29
   28
   32
   Glucose
   75
   82
   81
   63
   77
   Other labs: PT / PTT / INR:15.8/36.7/1.4, Differential-Neuts:89.5 %,
   Lymph:6.3 %, Mono:2.9 %, Eos:1.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # Respiratory failure
 Pt self-extubated.  Currently on high flow O2
   FiO2 w/ post-extubation ABG of 7.37/53/80/32.
   -O2 sat is ~ 92%.  Recheck gas now: PaO2 stable, continue on high flow
   O2.
   -Pt also has fever and elevated WBC LLL consolidation consistent with
   PNA. Continue vanc and cefepime (day 1 = [**9-25**]), on day 4 of 8 day
   course
   - Vanco trough today pending
   - on lasix drip; without metolazone  was -2 L yesterday, still 2+ L
   positive overall, continue drip at current rate check I/s and Os
   tonight
   - q8 lytes
   - F/u CXR this AM, culture data
   .
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam.   ECHO shows significant systolic dysfunction
   (EF 35%), and aortic stenosis.
   - continue lasix drip today; cardiology following, f/u recs
   - continue digitalis, most recent dig level 1.1, WNL
   -switched
   .
   #Hypernatremia - Na 147, not receiving regular free water boluses as he
   has not been tolerating tube feeds.
   -Hasn't been tolerating TF/free water flushes, try D5W
   .
   #Acute renal failure
 primarily  attributed to ATN  [**1-30**] to angiogram
   IV contrast, further being exacerbated by continued poor renal
   perfusion.  Pt has significant volume overload, but poor perfusion.
   Maximizing cardiac output with aggressive diuresis and digoxin.
   - continue to follow Cr; stable over last 2 days
   - renally dose medications; recheck Dig level
   # ACUTE BLOOD LOSS ANEMIA - pt w/ hx of GI bleed and recent
   antiplatelet agents.  EGD negative, s/p angiogram and embolization of
   [**Female First Name (un) **]. s/p 12units PRBC, 2 bags platelets, 2 units FFP. No more melanotic
   stools, Hct stable over last couple days.  He was not transfused.  IR
   recommends surgical internvention should rebleeding become significant,
   given difficulty finding bleed at last intervention.     Pt poor
   candidate for surgical intervention unless urgent.  No significant
   melanotic stools.  Hct stable at 30.
   - On lansoprazole, would continue, but consider changing to H2 blocker
   given that PPI can increase concentrations of plavix;
   - maintain access -  PICC
   - Goal HCT 30, currently above goal, continue to trend HCT q12 daily
   - active T&S, crossmatch
   - surgery aware  in case of hemodynamic instabiltiy
   - GI signed off given no active bleeding.
    .
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH);
   could potentially be explained by integrillin.  Aspirin being held.
   Plt 102 after transfusion.  Increased to 171.   HIT Ab is positive.
   Given optical density, 1-5% chance of HIT; serotonin release assay is
   pending.  Pretest probability intermediate.
   -All heparion D/c'd, receiving saline flushes q4 through PICC line, not
   starting argatroban in absence of thrombosis and alternate explanation
   for thrombocytopenia
   - trend platelets
   - F/u seratonin release assay to confirm HIT
   .
   # CAD - s/p PCI. Cont. Plavix, statin as long as bleed stable. Cards
   rec continuing .   plavix alone x2 wks, then asa 325 without plavix
   indefinitely.  Cards would like to be informed if bleeding recurs and
   plavix is stopped.  Pt on lipitor.
   .
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   .
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   .
   # Urine - UA dirty, urine culture showed Staph aureus.  Sensitivities
   pending.  Pt already on broad coverage.
   .
   #DIABETES - Insulin sliding scale.
   .
   # FEN: replace lytes as needed,  TF started slowly, increase as
   tolerated.
    .
   # ACCESS: PICC, RArterial
   .
   # PROPHYLAXIS: pneumoboots
   .
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-29 08:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -continued on high flow mask at FiO2 of 60%; repeat ABG was decent:
   pH 7.36 pCO2 48 pO2 82 HCO3 28 BaseXS
   -repeat dig level was normal
   -first set of tropes elevated at 0.21; second set .19, CK-MB went from
   6 to 11; EKG showed ventricular bigeminy which he has been in off and
   on; does not look significantly different from prior EKG no concerning
   ST-T changes.  Repeating troponins in AM.
   -kept NPO
   -around midnight started to complain of increasing shortness of breath.
    FiO2 increased from 50% to 80%.  ABG obtained which showed:
   pH 7.39 pCO2  48 pO2 83 HCO3 30 BaseXS 2.   Around 0145 continued to
   complain of shortness of breath.  Was given nebs X 2, position
   adjusted, gave 1 mg morphine.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2108-9-27**] 06:08 AM
   Cefipime - [**2108-9-27**] 12:00 PM
   Vancomycin - [**2108-9-27**] 07:45 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2108-9-29**] 01:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-29**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 62 (61 - 94) bpm
   BP: 134/51(73) {109/43(63) - 154/64(93)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 110.2 kg (admission): 112.2 kg
             Total In:
                                                                  1,251 mL
                                                                    547 mL
   PO:
             TF:
   IVF:
                                                                  1,221 mL
                                                                    547 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    980 mL
   Urine:
                                                                  3,280 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,029 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/37/139/27/4
   Ve: 17.1 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   248 K/uL
   10.8 g/dL
   152 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   51 mg/dL
   106 mEq/L
   142 mEq/L
   33.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2108-9-28**]  07:57 AM
                             [**2108-9-28**]  11:24 AM
                             [**2108-9-28**]  01:07 PM
                             [**2108-9-28**]  06:11 PM
                             [**2108-9-28**]  06:28 PM
                             [**2108-9-29**]  12:34 AM
                             [**2108-9-29**]  02:29 AM
                             [**2108-9-29**]  02:43 AM
                             [**2108-9-29**]  05:24 AM
                             [**2108-9-29**]  06:38 AM
   WBC
   9.6
   Hct
   33.6
   Plt
   248
   Cr
   2.4
   2.4
   2.3
   TropT
   0.19
   0.18
   TCO2
   30
   28
   30
   30
   29
   27
   28
   Glucose
   87
   115
   152
   Other labs: PT / PTT / INR:15.8/36.7/1.4, CK / CKMB /
   Troponin-T:263/12/0.18, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # Respiratory failure
 Pt reintubated given increasing dyspnea, left
   lung collapse.  Currently on 50% FiO2 with PEEP of 10; high peep can
   help to re-expand, recruit collapsed left lobe.  Cause of collapse
   likely secondary to increased secretions, continued pnuemonia.
   -Encourage aggressive chest PT, nebs, continued assist control.
   -Continue vanc and cefepime for coverage of HAP;  f.u sputum cxs.
   Track Rsided consolidation; if continuing to icnrease, consider tx
   failure, could be secondary to aspiration PNA.  [**Month (only) 51**] not be covering
   anaerobes.
   - on lasix drip at low rate 2 /hr; unclear how much CHF is contributing
   to dyspnea and respiratory distress:  was -2 L yesterday; maintain goal
   of -1.5 - 2 L and continue on low lasix drip.  Check Is and Os
   tonight.  Can start tracking BNPs.
   -Tendency to overbreath vent and becomes alkalotic, titrate fentanyl +
   versed to decrease minute ventilation
   -
   .
   # ACUTE EXACERBATION OF CHRONIC HEART FAILURE - The patient appears to
   still be in some degree of congestive heart failure given his elevated
   JVP and crackles on exam.   ECHO shows significant systolic dysfunction
   (EF 35%), and aortic stenosis.
   - continue lasix drip today; cardiology following, f/u recs
   - continue digitalis, most recent dig level 0.7: recheck Dig q2 days or
   if change in renal status.
   .
   #Hypernatremia - Na 142 this AM:  got D5W yesterday, improved.
   Restarting TF today, If necessary can give free water flushes.
   .
   #Acute renal failure
 primarily  attributed to ATN  [**1-30**] to angiogram
   IV contrast, further being exacerbated by continued poor renal
   perfusion.  Pt has significant volume overload, but poor perfusion.
   Maximizing cardiac output with aggressive diuresis and digoxin.
   - continue to follow Cr; stable over last 2 days
   - renally dose medications; recheck Dig level
   # ACUTE BLOOD LOSS ANEMIA - pt w/ hx of GI bleed and recent
   antiplatelet agents.  EGD negative, s/p angiogram and embolization of
   [**Female First Name (un) **]. s/p 12units PRBC, 2 bags platelets, 2 units FFP. No more melanotic
   stools, Hct stable over last couple days.  He was not transfused.  IR
   recommends surgical internvention should rebleeding become significant,
   given difficulty finding bleed at last intervention.     Pt poor
   candidate for surgical intervention unless urgent.  No significant
   melanotic stools.  Hct stable at 30.
   - HCT have been stable
   - maintain access -  PICC
   - Goal HCT 30, currently above goal, continue to trend HCT daily
   - active T&S, crossmatch
   - on Plavix, can restart aspirin given stable HCT
    .
   # THROMBOCYTOPENIA - Precipitous drop in platelets from 220 from
   admission to 50s concerning for possible HIT (received heparin at OSH);
   could potentially be explained by integrillin.  Aspirin being held.
   Plt 102 after transfusion.  Increased to 171.   HIT Ab is positive.
   Given optical density, 1-5% chance of HIT; serotonin release assay is
   pending.  Pretest probability intermediate.
   -All heparion D/c'd, receiving saline flushes q4 through PICC line, not
   starting argatroban in absence of thrombosis and alternate explanation
   for thrombocytopenia
   - trend platelets
   - F/u seratonin release assay to confirm HIT
   .
   # CAD - s/p PCI. Cont. Plavix, statin as long as bleed stable. Cards
   rec continuing .   plavix alone x2 wks, then asa 325 without plavix
   indefinitely.  Cards would like to be informed if bleeding recurs and
   plavix is stopped.  Pt on lipitor.
   -Troponins .21, .19, .19, CKMB 6, 11, 12.  Elevated but not rising,
   which is reassuring.  Likely secondary to renal failure and demand
   ischemia in setting of increased stress following self-extubation.
   EKG shows no concerning changes so no need for any aggressive
   intervention.  Restarting aspirin.
   .
   # ATRIAL FIBRILLATION - patient has underlying atrial fibrillation,
   v-paced
   - monitor on tele, continue digoxin
   - no Coumadin at this time given his history of melena and GI bleed.
   .
   #COPD - appears to be stable on clinical exam
   - will continue on home medications, albuterol and spiriva MDIs
   .
   # Urine - UA dirty, urine culture showed Staph aureus.  Sensitivities
   pending.  Pt already on broad coverage.
   .
   #DIABETES - Insulin sliding scale.
   .
   # FEN: replace lytes as needed,  TF started slowly, increase as
   tolerated.
    .
   # ACCESS: PICC, RArterial
   .
   # PROPHYLAXIS: pneumoboots
   .
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-29 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, GIB, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78M CAD / DCM (35%), PCI, GIB c/b ARF, respiratory failure. Echo with
   mod AS, PHTN.
   24 Hour Events:
   Overnight complaining of worsening SOB, using accessory muscles.
   Had continued to diurese.  Trial of bronchodilators and chest PT
   without improvement.  Suctioned for large amount of thick oral
   secretions prior to intubation.
   ABG 7.36/50/95
   CXR showed left lung collapse; intubated ~2am.  On AC 30 /TV 450/50%
   Fi02/PEEP 10   7.4.8/37/139
   Started on propofol; prn fentanyl
   Cardiac enzymes cycled:  troponin .21, trending down slightly;  CPK 6,
   11, 12.  ECG unchanged.
   Digoxin level 0.7
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2108-9-27**] 06:08 AM
   Cefipime - [**2108-9-27**] 12:00 PM
   Vancomycin - [**2108-9-27**] 07:45 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2108-9-29**] 01:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-29**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 62 (61 - 94) bpm
   BP: 134/51(73) {109/43(63) - 154/64(93)} mmHg
   RR: 30 (21 - 34) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 110.2 kg (admission): 112.2 kg
             Total In:
                                                                  1,251 mL
                                                                    554 mL
   PO:
             TF:
   IVF:
                                                                  1,221 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                  3,280 mL
                                                                    980 mL
   Urine:
                                                                  3,280 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,029 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/37/139/27/4
   Ve: 17.1 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: scattered), remains
   diminshed on left
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, anasarca
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   248 K/uL
   152 mg/dL
   2.3 mg/dL
   27 mEq/L
   3.9 mEq/L
   51 mg/dL
   106 mEq/L
   142 mEq/L
   33.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2108-9-28**]  07:57 AM
                             [**2108-9-28**]  11:24 AM
                             [**2108-9-28**]  01:07 PM
                             [**2108-9-28**]  06:11 PM
                             [**2108-9-28**]  06:28 PM
                             [**2108-9-29**]  12:34 AM
                             [**2108-9-29**]  02:29 AM
                             [**2108-9-29**]  02:43 AM
                             [**2108-9-29**]  05:24 AM
                             [**2108-9-29**]  06:38 AM
   WBC
   9.6
   Hct
   33.6
   Plt
   248
   Cr
   2.4
   2.4
   2.3
   TropT
   0.19
   0.18
   TCO2
   30
   28
   30
   30
   29
   27
   28
   Glucose
   87
   115
   152
   Other labs: PT / PTT / INR:15.8/36.7/1.4, CK / CKMB /
   Troponin-T:263/12/0.18, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.1 mg/dL
   Microbiology: MSSA in urine culture.
   Assessment and Plan
 AFIB:  V-paced, on digoxin.  Holding coumadin.
 ELECTROLYTE & FLUID DISORDER, HYPERNATREMIA:  Sodium improved with
   free water replacement.  Continue to monitor labs.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Continues on
   plavix.  Restart ASA given stable hcts.  Elevated troponins, likely
   demand ischemia in setting of worsening respiratory status.
 CONGESTIVE HEART FAILURE/AORTIC STENOSIS:  Gentle diuresis with lasix
   drip. Follow electrolytes.  Goal for 100 cc/hr urine output, 500 cc
   negative/24 hours.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to inability to
   handle secretions and mucus plugging with left lung collapse.
   Reintubated overnight.  Repeat CXR shows persistent collapse shortly
   after intubation.  Repeat sputum gram stain and culture.  Albumin 2.2,
   likley contributing to total body fluid overload.
 UTI:  MSSA on culture.  On abx.  Repeat UA, C & S.
 THROMBOCYTOPENIA, ACUTE:  Plts back in normal range.  Stopped all
   heparin.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) ON CHRONIC:
   Secondary to contrast nephropathy.  Cr stable. Good urine output.
   Tolerating gentle diuresis.
 H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Hct
   stable, no further transfusion required.  Daily Hct.  Goal to keep
   >30.  Active type and screen.
 DIABETES:  Well controlled on RISS.
 NUTRITION:  Restart tube feeds, keep HOB elevated, check residuals.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2108-09-30 06:37:00 Physician Resident Progress Note
Chief Complaint: 78 yom with h/o CHF, A.fib, recent melena s/p PCI
   presenting with GIB after being placed on plavix integrillin, now with
   fluid overload, hypoxic respiratory failure and possible underlying
   pneumonia.
   24 Hour Events:
   - Patient continued to overbreathe vent all yesterday.
   - Maroon BM at 0000 with stable HCT
 first BM in days elicited by
   suppositories
   - UOP > 100/hr on Lasix drip  - now neg. 1.280 L for LOS
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2108-9-27**] 06:08 AM
   Cefipime - [**2108-9-27**] 12:00 PM
   Vancomycin - [**2108-9-29**] 08:35 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Fentanyl - [**2108-9-29**] 11:14 AM
   Midazolam (Versed) - [**2108-9-29**] 03:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-30**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 68) bpm
   BP: 120/50(71) {101/38(54) - 143/52(75)} mmHg
   RR: 30 (0 - 34) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 104.8 kg (admission): 112.2 kg
             Total In:
                                                                  2,182 mL
                                                                    225 mL
   PO:
             TF:
                                                                    214 mL
                                                                    121 mL
   IVF:
                                                                  1,669 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    910 mL
   Urine:
                                                                  3,180 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 165 (165 - 377) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 237
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.56/31/198/30/6
   Ve: 10.8 L/min
   PaO2 / FiO2: 396
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   10.7 g/dL
   192 mg/dL
   2.2 mg/dL
   30 mEq/L
   3.6 mEq/L
   50 mg/dL
   104 mEq/L
   141 mEq/L
   32.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2108-9-29**]  06:38 AM
                             [**2108-9-29**]  10:58 AM
                             [**2108-9-29**]  12:50 PM
                             [**2108-9-29**]  03:35 PM
                             [**2108-9-29**]  03:49 PM
                             [**2108-9-29**]  06:40 PM
                             [**2108-9-29**]  09:15 PM
                             [**2108-9-29**]  10:25 PM
                             [**2108-9-30**]  01:44 AM
                             [**2108-9-30**]  04:42 AM
   WBC
   7.4
   Hct
   32.3
   Plt
   225
   Cr
   2.3
   2.2
   TCO2
   28
   27
   29
   29
   27
   29
   34
   29
   Glucose
   152
   192
   Other labs: PT / PTT / INR:15.8/36.7/1.4, CK / CKMB /
   Troponin-T:263/12/0.18, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.2 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Microbiology
   - urine [**9-29**] - pending
   - urine [**9-25**]
 MSSA
   - blood 9/29
 pending
   - [**9-25**]
 GPC in pairs, contamination with [**Last Name (un) **] flora
   Imaging
   - CXR [**9-29**]
 re-expansion of LUL, most of lingula remains collapsed,
   small left pleural effusion.  RL now hyperinflated with decreased edema
   and smaller consolidation in RLL.
   Assessment and Plan
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # Respiratory failure
 patient currently on CMV assist with PEEP of 8
   and TV of 400 and PIP of 27
   - consider bronchoscopy for re-expansion of Lingula
   - continue aggressive chest PT and nebulizers
   - continue vancomycin and cefepime for HAP flora and f/u sputum Cx and
   daily CXR
   - continue gentle diuresis with Lasix drip as clinically fluid
   overloaded with goal -1L, track BNP
s as indicator of progress ([**Numeric Identifier 10488**])
   - titrate sedation to help reduce RR
   # Congestive Heart Failure
 patient continues to appear clinically
   fluid overloaded despite being negative for LOS, represents patient was
   likely fluid overloaded at initial presentation.
   - continue gentle diuresis via Lasix gtt
   - continue digoxin for improved contractility (normal EF is 35%)
   #Hypernatremia - Na 141 this AM:
   - will continue free water flushes with tube feeds or D5W PRN
   hypernatremia
   - follow [**Hospital1 7**] lytes in setting of Lasix gtt
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 2.2 (stable) from baseline
   1.1.  Attempting to optimize forward flow with digoxin.
   - follow daily Cr and UOP, on lasix gtt
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  Patient had single melanotic stool yesterday which may
   represent old blood as patient has been constipated since admission to
   unit.  HCT remains stable.
   - continue to trend with [**Hospital1 7**] HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA unless active GIB with falling HCT as
   patient had recent PCI with stent placement
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.
   - continue to hold all heparin products
   - continue to defer argatroban unless clinical picture is more
   concerning for HIT
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Cardiac enzymes have remained stable.
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 continue to hold anticoagulation in setting of
   recent GIB
   # Urine
 cultures pos. for MSSA, continuing broad spectrum antibiotics
   which should cover the urine flora
   # Diabetes
 continue ISS
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF with PRN free water
   flushes
   # ACCESS: PICC, RArterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-9-29**] 10:29 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-09-30 12:14:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Maroon stool x 1 overnight
   Continues ventilated
   Continues lasix drip
   History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-9-27**] 12:00 PM
   Vancomycin - [**2108-9-29**] 08:35 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2108-9-29**] 03:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-9-30**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 60 (60 - 68) bpm
   BP: 110/48(64) {85/36(53) - 135/52(72)} mmHg
   RR: 30 (0 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 104.8 kg (admission): 112.2 kg
             Total In:
                                                                  2,182 mL
                                                                  1,088 mL
   PO:
             TF:
                                                                    214 mL
                                                                    239 mL
   IVF:
                                                                  1,669 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  1,355 mL
   Urine:
                                                                  3,180 mL
                                                                  1,290 mL
   NG:
   65 mL
   Stool:
   Drains:
   Balance:
                                                                   -998 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 457 (165 - 457) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 237
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.55/32/151/30/6
   Ve: 10.3 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, 2+ BUE
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   225 K/uL
   192 mg/dL
   2.2 mg/dL
   30 mEq/L
   3.9 mEq/L
   50 mg/dL
   104 mEq/L
   141 mEq/L
   32.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2108-9-29**]  10:58 AM
                             [**2108-9-29**]  12:50 PM
                             [**2108-9-29**]  03:35 PM
                             [**2108-9-29**]  03:49 PM
                             [**2108-9-29**]  06:40 PM
                             [**2108-9-29**]  09:15 PM
                             [**2108-9-29**]  10:25 PM
                             [**2108-9-30**]  01:44 AM
                             [**2108-9-30**]  04:42 AM
                             [**2108-9-30**]  11:05 AM
   WBC
   7.4
   Hct
   32.3
   Plt
   225
   Cr
   2.3
   2.2
   TCO2
   27
   29
   29
   27
   29
   34
   29
   29
   Glucose
   152
   192
   Other labs: PT / PTT / INR:15.8/36.7/1.4, CK / CKMB /
   Troponin-T:263/12/0.18, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.2 g/dL, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Microbiology: UCx: [**9-29**] NGTD
   Blood CX [**9-25**]:  NGTD
   Assessment and Plan
 AFIB:  V-paced, on digoxin.  Holding coumadin.

 ELECTROLYTE & FLUID DISORDER, HYPERNATREMIA:  Sodium improved with
   free water replacement.  Continue to monitor labs.

 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Continues on
   plavix.  Restart ASA given stable hcts.  Elevated troponins, likely
   demand ischemia in setting of worsening respiratory status.

 CONGESTIVE HEART FAILURE/AORTIC STENOSIS:  Continue diuresis with
   lasix drip. Follow electrolytes.  Goal for 100 cc/hr urine output,
   500-1000 cc negative/24 hours.

 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to inability
   to handle secretions and mucus plugging with left lung collapse.
   Reintubated overnight.  Repeat CXR shows reexpanded LUL.  Repeat sputum
   gram stain and culture.

 UTI:  MSSA on culture.  On abx.  Repeat UA, C & S no growth.
 THROMBOCYTOPENIA, ACUTE:  Plts back in normal range.  Stopped all
   heparin.  Serotonin assay pending.

 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) ON CHRONIC:
   Secondary to contrast nephropathy.  Cr stable. Good urine output.
   Tolerating gentle diuresis.

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Single
   maroon stool overnight.  Hct stable, no further transfusion required.
   Daily Hct.  Goal to keep >30.  Active type and screen.

 DIABETES:  Well controlled on RISS.
 NUTRITION:  Tolerating tube feeds, almost at goal, keep HOB elevated,
   check residuals.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-9-29**] 10:29 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2108-10-01 07:04:00 Physician Resident Progress Note
Chief Complaint: - Nutrition recs: try reglan if patient is not
   tolerating TF's, consider semi-elemental formula, lower fat formula =
   Peptamen 1.5 with goal of 60ml/hr = 2160 calories and 98g protein, if
   patient unable to tolerate semi-elemental tube feed
 will need TPN
   - alarms continuing to sound for pause - appears questionable ST
   elevations in V2-V4, cycled cardiac enzymes
   - vancomycin dose readjusted to 750 mg daily for trough of 23.6
   - apparent desaturations when placed onto left side
   24 Hour Events:
 EKG - At [**2108-9-30**] 02:10 PM
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-9-30**] 09:03 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-1**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 60 (58 - 69) bpm
   BP: 91/37(52) {85/36(52) - 128/56(77)} mmHg
   RR: 53 (21 - 53) insp/min
   SpO2: 90%
   Heart rhythm: V Paced
   Wgt (current): 102.7 kg (admission): 112.2 kg
             Total In:
                                                                  2,366 mL
                                                                    557 mL
   PO:
             TF:
                                                                    570 mL
                                                                    189 mL
   IVF:
                                                                    786 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  3,275 mL
                                                                  1,120 mL
   Urine:
                                                                  3,210 mL
                                                                  1,120 mL
   NG:
                                                                     65 mL
   Stool:
   Drains:
   Balance:
                                                                   -909 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 426 (426 - 457) mL
   PS : 18 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 90%
   ABG: 7.51/40/82.[**Numeric Identifier 143**]/31/7
   Ve: 8 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   249 K/uL
   10.1 g/dL
   183 mg/dL
   2.0 mg/dL
   31 mEq/L
   3.9 mEq/L
   48 mg/dL
   106 mEq/L
   141 mEq/L
   31.0 %
   6.1 K/uL
        [image002.jpg]
                             [**2108-9-29**]  10:25 PM
                             [**2108-9-30**]  01:44 AM
                             [**2108-9-30**]  04:42 AM
                             [**2108-9-30**]  11:05 AM
                             [**2108-9-30**]  03:45 PM
                             [**2108-9-30**]  06:08 PM
                             [**2108-9-30**]  06:15 PM
                             [**2108-10-1**]  12:51 AM
                             [**2108-10-1**]  04:23 AM
                             [**2108-10-1**]  04:54 AM
   WBC
   7.4
   6.1
   Hct
   32.3
   31.0
   Plt
   225
   249
   Cr
   2.2
   2.1
   2.0
   TropT
   0.15
   0.16
   TCO2
   34
   29
   29
   31
   33
   Glucose
   192
   188
   183
   Other labs: PT / PTT / INR:15.8/36.7/1.4, CK / CKMB /
   Troponin-T:61/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: troponins stable at 0.15, .16 on [**9-30**] and
   [**10-1**]
   dig 0.7 from [**10-3**]
   pO2 83
   pCO2 40
   pH  7.51
   HCO3-  33
   Imaging: [**2108-9-30**] (CXR):
   Lung volumes are slightly lower and mild pulmonary edema slightly
   worse. Left lower lobe remains collapsed, and the worsening edema or
   lower lung volumes is responsible for exaggeration of right infrahilar
   consolidation, probably
   pneumonia
   [**2108-9-26**] (echo):  Compared with the prior study (images reviewed) of
   [**2108-9-19**], the findings are similar with moderately depressed
   biventricular function, moderate aortic stenosis, mild aortic and mild
   mitral regurgitation, and moderate pulmonary artery systolic
   hypertension.  LVEF 35%
   Microbiology: 1) Gram + cocci in sputum
   2) Coag + staph in urine (MSSA)
   ECG: [**2108-9-28**]:
   Atrial fibrillation with ventricular premature beats. Possible inferior
   myocardial infarction, age indeterminate. Possible anteroseptal
   myocardial
   infarction, age indeterminate. Non-specific ST-T wave changes. Compared
   to
   the previous tracing of [**2108-9-20**] intermittent ventricular pacing is
   absent.
   Assessment and Plan
   Assessment and Plan
   ASSESSMENT AND PLAN 78 y.o male with past hx of CABGx2 15 years ago,
   acute exacerbation of CHF with systolic and diastolic dysfunction,
   Afib, and recent PCI now with acute GI bleed.
   # Respiratory failure
 Continued left sided lung collapse.  Patient
   currently on CMV assist with PEEP of 8 and TV of 400 and PIP of 25:
   - continue aggressive chest PT and nebulizers; have tried increasing
   PEEP in past to 12 but did not improve;
   - continue reduced dose of vancomycin and cefepime for HAP flora and
   f/u sputum Cx and daily CXR; likely to be good coverage as patient has
   remained afebrile with no change in WBC count
   - continue gentle diuresis with Lasix drip as clinically fluid
   overloaded with goal -1L, track BNP
s as indicator of progress ([**Numeric Identifier 10488**])
   - titrate sedation to help reduce RR
   # Congestive Heart Failure
 patient continues to appear clinically and
   radiologically fluid overloaded despite being overall -1 L negative;
   last night was just under -1 L
   - increase lasix drip to 10 mg/hr
   - continue digoxin for improved contractility (normal EF is 35%)
   #Hypernatremia - Na stable at 141 last couple days.
   - will continue free water flushes with tube feeds or D5W PRN
   hypernatremia
   - follow [**Hospital1 7**] lytes in setting of Lasix gtt
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 2.2 (stable) from baseline
   1.1.  Attempting to optimize forward flow with digoxin.
   - follow daily Cr and UOP, on lasix gtt
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  Patient had single melanotic stool yesterday which may
   represent old blood as patient has been constipated since admission to
   unit.  HCT very slow trend down likely secondary to blood draws;
   currently at 31.
   - continue to trend with [**Hospital1 7**] HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA unless active GIB with falling HCT as
   patient had recent PCI with stent placement
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.
   - continue to hold all heparin products
   - continue to defer argatroban unless clinical picture is more
   concerning for HIT
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Telemetry shows occasional pauses, EKG reveals non-specific ST changes;
   cardiac enzymes being recycled with first set stable.
   -contine to cycle X 2
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 continue to hold anticoagulation in setting of
   recent GIB
   # Urine
 cultures pos. for MSSA, continuing broad spectrum antibiotics
   which should cover the urine flora
   # Diabetes
 continue ISS: sugars are 150-250
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF with PRN free water
   flushes; if not tolerating TF, then nutrition recs: consider
   semi-elemental formula, lower fat formula = Peptamen 1.5 with goal of
   60ml/hr = 2160 calories and 98g protein, if patient unable to tolerate
   semi-elemental tube feed
 will need TPN
   # ACCESS: PICC, RArterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code - confirmed with patient - would not want long term
   artificial support. Son - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-9-30**] 02:17 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-10-02 07:37:00 Physician Resident Progress Note
Chief Complaint: 78 yom with hx of CHF, AF  s/p staged PCI for acute
   CHF admitted with GIB in setting of anticoagulation for stent
   placement, now massively fluid overloaded s/p resuscitation requiring
   ventilator support.
   24 Hour Events:
   - aggressive diuresis attempted with lasix gtt (12 mg/hr): -2L for day
   and -3.5L for [**Location **] respiratory attempted to obtain NIF
s yesterday in hopes of revealing
   source of hyperventilation but patient was not cooperative
   - patient attempted to self-extubate last night, sedation increased and
   now patient not over-breathing vent this AM
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-1**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-10-1**] 02:14 PM
   Midazolam (Versed) - [**2108-10-2**] 05:17 AM
   Fentanyl - [**2108-10-2**] 05:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 61 (52 - 85) bpm
   BP: 115/45(64) {98/41(58) - 178/93(119)} mmHg
   RR: 27 (15 - 38) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 98.4 kg (admission): 112.2 kg
             Total In:
                                                                  2,514 mL
                                                                    853 mL
   PO:
             TF:
                                                                    925 mL
                                                                    319 mL
   IVF:
                                                                    534 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,140 mL
   Urine:
                                                                  4,250 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,736 mL
                                                                   -287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.51/43/129/34/10
   NIF: 0 cmH2O
   Ve: 8.7 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   9.8 g/dL
   187 mg/dL
   1.9 mg/dL
   34 mEq/L
   3.4 mEq/L
   45 mg/dL
   104 mEq/L
   141 mEq/L
   29.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2108-9-30**]  03:45 PM
                             [**2108-9-30**]  06:08 PM
                             [**2108-9-30**]  06:15 PM
                             [**2108-10-1**]  12:51 AM
                             [**2108-10-1**]  04:23 AM
                             [**2108-10-1**]  04:54 AM
                             [**2108-10-1**]  08:47 AM
                             [**2108-10-1**]  01:27 PM
                             [**2108-10-2**]  03:01 AM
                             [**2108-10-2**]  03:14 AM
   WBC
   6.1
   5.1
   Hct
   31.0
   29.6
   Plt
   249
   237
   Cr
   2.1
   2.0
   2.0
   1.9
   TropT
   0.15
   0.16
   0.16
   TCO2
   31
   33
   36
   Glucose
   188
   183
   210
   187
   Other labs: PT / PTT / INR:16.9/32.6/1.5, CK / CKMB /
   Troponin-T:58/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Microbiology
   - BAL [**9-24**]: GPC in pairs, commensal respiratory flora
   - sputum [**9-25**]: GPC in pairs and clusters, commensal respiratory flora
   - sputum [**9-30**]: no growth
   - urine [**9-25**]: staph aureus
   - urine [**9-29**]: no growth
   Imaging
   - CXR [**10-1**]: unchanged moderate pulmonary edema, retrocardiac
   atelectasis
   Assessment and Plan
   ASSESSMENT AND PLAN 78 yom with hx of CHF, AF  s/p staged PCI for acute
   CHF admitted with GIB in setting of anticoagulation for stent
   placement, now massively fluid overloaded s/p resuscitation requiring
   ventilator support.  Plan is now for aggressive diuresis and then
   planned extubation later this week.
   # Respiratory failure
 continued substantial pulmonary edema with
   retrocardiac atelectasis
   - cpntinue Vancomycin and Cefepime (? [**8-10**]) for empiric Tx of HAP
   - continue aggressive diuresis with lasix gtt for goal of -1.5 L/day
   - continue chest PT with nebulizers
   - neurology consult for etiology of continued hyperventilation
   # Congestive Heart Failure
 patient with continued fluid overload
   state s/p aggressive resuscitation for GIB, now receiving aggressive
   diuresis
   - continue lasix gtt 12 and consider adding metolazone to achieve
   diuresis goal of -1L / day
   - continue digoxin for improved contractility (normal EF is 35%)
   #Hypernatremia - Na stable at 141 last couple days.
   - follow [**Hospital1 7**] lytes and treat hypernatremia with free water flushes PRN
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 1.9 (improving) from
   baseline 1.1.  Attempting to optimize forward flow with digoxin.  Renal
   failure seems to be resolving.
   - continue lasix gtt and add metolazone to achieve diuresis goal
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  HCT very slow trend down likely secondary to blood draws;
   currently at 29.6.  GIB stable.
   - continue to trend with [**Hospital1 7**] HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.
   - continue to hold all heparin products
   - continue to defer argatroban unless clinical picture is more
   concerning for HIT
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Telemetry shows occasional pauses, EKG reveals non-specific ST changes;
   cardiac enzymes being recycled with first set stable.
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 patient currently in NSR, continue to hold
   anticoagulation in setting of recent GIB
   # Urine
 cultures pos. for MSSA on [**9-25**], continuing broad spectrum
   antibiotics which should cover the urine flora
   # Diabetes
 continue ISS
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF
   # ACCESS: PICC, right arterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code
   # Contact: [**Name (NI) **] - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-10-2**] 06:23 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-10-03 07:31:00 Physician Resident Progress Note
Chief Complaint: 78 yom with hx of CHF, AF  s/p staged PCI for acute
   CHF admitted with GIB in setting of anticoagulation for stent
   placement, now massively fluid overloaded s/p resuscitation requiring
   ventilator support.
   24 Hour Events:
   - NIF yesterday was -10 suggesting underlying neuropathy / myopathy
   - aggressive diuresis with Lasix gtt at 12 mg/hour with -3L  for day
   and no Cr bump
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-10-2**] 02:00 PM
   Vancomycin - [**2108-10-2**] 08:08 PM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-10-2**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 60 (55 - 67) bpm
   BP: 100/33(53) {94/33(52) - 119/47(67)} mmHg
   RR: 29 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 97.3 kg (admission): 112.2 kg
             Total In:
                                                                  2,604 mL
                                                                    817 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    339 mL
   IVF:
                                                                    977 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  4,850 mL
                                                                  1,380 mL
   Urine:
                                                                  4,850 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,246 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.47/49/155/35/11
   NIF: -10 cmH2O
   Ve: 6.7 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   9.5 g/dL
   198 mg/dL
   1.7 mg/dL
   35 mEq/L
   3.6 mEq/L
   46 mg/dL
   103 mEq/L
   141 mEq/L
   28.5 %
   5.2 K/uL
        [image002.jpg]
                             [**2108-10-1**]  04:54 AM
                             [**2108-10-1**]  08:47 AM
                             [**2108-10-1**]  01:27 PM
                             [**2108-10-2**]  03:01 AM
                             [**2108-10-2**]  03:14 AM
                             [**2108-10-2**]  03:12 PM
                             [**2108-10-2**]  03:32 PM
                             [**2108-10-2**]  10:55 PM
                             [**2108-10-3**]  01:20 AM
                             [**2108-10-3**]  01:38 AM
   WBC
   5.1
   5.2
   Hct
   29.6
   30.1
   28.5
   Plt
   237
   240
   Cr
   2.0
   1.9
   1.7
   1.7
   TropT
   0.16
   TCO2
   33
   36
   36
   36
   37
   Glucose
   [**Telephone/Fax (3) 10553**]09
   198
   Other labs: PT / PTT / INR:16.9/32.6/1.5, CK / CKMB /
   Troponin-T:58/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Microbiology
   - BAL [**9-24**]: GPC in pairs, commensal respiratory flora
   - sputum [**9-25**]: GPC in pairs and clusters, commensal respiratory flora
   - sputum [**9-30**]: no growth
   - urine [**9-25**]: staph aureus
   - urine [**9-29**]: no growth
   Imaging
   - CXR [**10-1**]: unchanged moderate pulmonary edema, retrocardiac
   atelectasis
   Assessment and Plan
   78 yom with hx of CHF, AF s/p staged PCI for acute CHF admitted with
   GIB in setting of anticoagulation for stent placement, now massively
   fluid overloaded s/p resuscitation requiring ventilator support.  Plan
   is now for aggressive diuresis and then planned extubation later this
   week.
   # Respiratory failure
 continued substantial pulmonary edema with
   retrocardiac atelectasis.  NST 10 (low).
   - cpntinue Vancomycin and Cefepime (? [**9-10**]) for empiric Tx of HAP
   - continue aggressive diuresis with lasix gtt for goal of - 2 L/day
   titrate to BP
   - continue chest PT with nebulizers
   - consult neurology for etiology of acute onset weakness
 may require
   NM consult
   # Congestive Heart Failure
 patient with continued fluid overload
   state s/p aggressive resuscitation for GIB, now receiving aggressive
   diuresis
   - continue lasix gtt 12 and consider adding metolazone to achieve
   diuresis goal of -2L / day
   - continue digoxin for improved contractility (normal EF is 35%)
   #Hypernatremia - Na stable at 141 last couple days.
   - follow [**Hospital1 7**] lytes and treat hypernatremia with free water flushes PRN
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 1.9 (improving) from
   baseline 1.1.  Attempting to optimize forward flow with digoxin.  Renal
   failure seems to be resolving.
   - continue lasix gtt and add metolazone to achieve diuresis goal
   following [**Hospital1 7**] lytes and Cr
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  HCT very slow trend down likely secondary to blood draws;
   currently at 28.5.  GIB stable.
   - continue to trend with [**Hospital1 7**] HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.  Likely result of Integrilin.
   - continue to hold all heparin products
   - continue to defer argatroban unless clinical picture is more
   concerning for HIT
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Telemetry shows occasional pauses, EKG reveals non-specific ST changes;
   cardiac enzymes being recycled with first set stable.
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 patient currently in NSR, continue to hold
   anticoagulation in setting of recent GIB
   # Urine
 cultures pos. for MSSA on [**9-25**], continuing broad spectrum
   antibiotics which should cover the urine flora
   # Diabetes
 continue ISS
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF
   # ACCESS: PICC, right arterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code
   # Contact: [**Name (NI) **] - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-10-3**] 04:28 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-10-04 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - neuro: minor bilateral weakness in UEx, strong [**Doctor First Name **], no apparent CN
   deficits, NIF has poor PPV and does not predict inspiratory muscle
   weakness, rec repeating NIF + MEP + VC + FVC (?neuromusc consult)
   - TTE: LVEF unchanged (35%) and more prominent MR compared to prior
   - continued diuresis with lasix gtt at 14 mg/hr
   - patient seems irritated, gesturing to ET tube, interactive - suspect
   he wants to be extubated
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-10-3**] 02:25 PM
   Vancomycin - [**2108-10-3**] 08:40 PM
   Infusions:
   Fentanyl (Concentrate) - 70 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 61 (60 - 68) bpm
   BP: 115/44(63) {93/35(54) - 142/59(239)} mmHg
   RR: 21 (8 - 33) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 97.3 kg (admission): 112.2 kg
             Total In:
                                                                  2,303 mL
                                                                    681 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    240 mL
   IVF:
                                                                    766 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    740 mL
   Urine:
                                                                  3,540 mL
                                                                    640 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,237 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.50/46/95.[**Numeric Identifier 218**]/35/11
   Ve: 7.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   9.6 g/dL
   196 mg/dL
   1.7 mg/dL
   35 mEq/L
   3.7 mEq/L
   46 mg/dL
   102 mEq/L
   139 mEq/L
   29.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2108-10-1**]  01:27 PM
                             [**2108-10-2**]  03:01 AM
                             [**2108-10-2**]  03:14 AM
                             [**2108-10-2**]  03:12 PM
                             [**2108-10-2**]  03:32 PM
                             [**2108-10-2**]  10:55 PM
                             [**2108-10-3**]  01:20 AM
                             [**2108-10-3**]  01:38 AM
                             [**2108-10-4**]  03:35 AM
                             [**2108-10-4**]  04:13 AM
   WBC
   5.1
   5.2
   7.8
   Hct
   29.6
   30.1
   28.5
   29.6
   Plt
   237
   240
   291
   Cr
   2.0
   1.9
   1.7
   1.7
   1.7
   TCO2
   36
   36
   36
   37
   37
   Glucose
   [**Telephone/Fax (3) 10588**]
   Other labs: PT / PTT / INR:16.9/32.6/1.5, CK / CKMB /
   Troponin-T:58/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: pO2 95  pCO2 46  pH  7.50 (morning of
   [**10-4**])
   Imaging: Overall improved pulm edema although continue presence of
   small right sided effusion.
   [**10-3**]: There is slight interval worsening of the right basilar opacities
   most likely combination of atelectasis and present
   pleural effusion. There is no pneumothorax.
   Microbiology: [**9-24**] 1+ GPCs in sputum from BAL and suctioned sputum
   Coag + staph (MSSA) in urine
   Assessment and Plan
   Assessment and Plan
   78 yom with hx of CHF, AF s/p staged PCI for acute CHF admitted with
   GIB in setting of anticoagulation for stent placement, now massively
   fluid overloaded s/p resuscitation requiring ventilator support.  Plan
   is now for aggressive diuresis and then planned extubation later this
   week.
   # Respiratory failure
 continued substantial pulmonary edema with
   retrocardiac atelectasis.  NST 10 (low).
   - continue Vancomycin and Cefepime ([**10-6**]) for empiric Tx of HAP
   - continue aggressive diuresis with lasix gtt for goal of - 2 L/day
   titrate to BP.  Yesterday was -1.2 L: will continue lasix drip at 14
   cc/hr but add metolazone today to acheive diuresis goal.
   - continue chest PT with nebulizers
   - consult neurology for etiology of acute onset weakness
 may require
   NM consult; repeating NIF today.  Neuromuscular weakness, if present,
   could be secondary to deconditioning.
   # Congestive Heart Failure
 patient with continued fluid overload
   state s/p aggressive resuscitation for GIB, now receiving aggressive
   diuresis; is overall -6 L negative, however clinically appears
   overloaded and radiologically pulm edema looks improved.
   - continued diuresis
   - continue digoxin for improved contractility (normal EF is 35%)
   - TTE shows 2+ MR: would not tolerate afterload reduction given low
   BPs; would consider adding this on after diuresis
   #Hypernatremia - Na stable between 139-141 last few days.
   - follow [**Hospital1 7**] lytes and treat hypernatremia with free water flushes PRN
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 1.7 (improving) from
   baseline 1.1.  Attempting to optimize forward flow with digoxin.  Renal
   failure seems to be resolving.
   -nonoliguric: making good urine about 125 cc/hr
   - continue lasix gtt and add metolazone today to acheive diuresis goal
   following [**Hospital1 7**] lytes and Cr
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  HCT very slow trend down likely secondary to blood draws;
   currently at 28.5.  GIB stable.
   - Check daily HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.  Likely result of Integrilin.
   - continue to hold all heparin products
   - continue to defer argatroban unless clinical picture is more
   concerning for HIT
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Telemetry shows occasional pauses, EKG reveals non-specific ST changes;
   enzymes were stable.
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 patient currently in NSR, continue to hold
   anticoagulation in setting of recent GIB
   # Urine
 cultures pos. for MSSA on [**9-25**], continuing broad spectrum
   antibiotics which should cover the urine flora
   # Diabetes
 continue ISS
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF
   # ACCESS: PICC, right arterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code
   # Contact: [**Name (NI) **] - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-10-4**] 02:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-10-04 12:13:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Congestive Heart Failure--Systolic acute and chronic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2108-10-3**] 02:01 PM
   _Lasix at 14mg/hr continuing with negative fluid balance achieved
   -Patient with good mental status
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-10-3**] 02:25 PM
   Vancomycin - [**2108-10-3**] 08:40 PM
   Infusions:
   Fentanyl (Concentrate) - 70 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2108-10-4**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 61 (60 - 68) bpm
   BP: 116/46(64) {93/39(55) - 142/118(239)} mmHg
   RR: 20 (8 - 36) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 97.3 kg (admission): 112.2 kg
             Total In:
                                                                  2,303 mL
                                                                  1,198 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    456 mL
   IVF:
                                                                    766 mL
                                                                    382 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                  1,220 mL
   Urine:
                                                                  3,540 mL
                                                                  1,120 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,237 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.50/46/95.[**Numeric Identifier 218**]/35/11
   Ve: 6.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   291 K/uL
   196 mg/dL
   1.7 mg/dL
   35 mEq/L
   3.7 mEq/L
   46 mg/dL
   102 mEq/L
   139 mEq/L
   29.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2108-10-1**]  01:27 PM
                             [**2108-10-2**]  03:01 AM
                             [**2108-10-2**]  03:14 AM
                             [**2108-10-2**]  03:12 PM
                             [**2108-10-2**]  03:32 PM
                             [**2108-10-2**]  10:55 PM
                             [**2108-10-3**]  01:20 AM
                             [**2108-10-3**]  01:38 AM
                             [**2108-10-4**]  03:35 AM
                             [**2108-10-4**]  04:13 AM
   WBC
   5.1
   5.2
   7.8
   Hct
   29.6
   30.1
   28.5
   29.6
   Plt
   237
   240
   291
   Cr
   2.0
   1.9
   1.7
   1.7
   1.7
   TCO2
   36
   36
   36
   37
   37
   Glucose
   [**Telephone/Fax (3) 10588**]
   Other labs: PT / PTT / INR:16.9/32.6/1.5, CK / CKMB /
   Troponin-T:58/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: ECHO-_EF-25%, MR is at 2+
   CXR-mild worsening right basilar opacity--significant and persistent
   LLL collapse, ETT at 4cm above carina
   Microbiology: Micro-1+ GPC in sputum
   Coag pos in urine--staph
   Assessment and Plan
   78 yo male with history of heart failure and now with GI bleed
   complicating PCI now with significant and persistent respiratory
   failure in the setting of acute on chronic systolic heart failure.
   1)Respiratory Failure-Patient with good diruesis and has been able to
   maintain a negative fluid balance thorugh to this morning.  We have
   reasonable optimism for capacity to wean in light of recent changes
   -Albuterol
   -PSV and wean to [**5-1**]
   -Continue negative fluid balance if possible but with contraction
   alkalosis and improved pulmonary mechanics have seen likely improvement
   in volume status
   2)Congestive Heart Failure-
   -Lasix gtt
   -Digoxin
   --Consider afterload reduction going forward and prior to extubation
   3)GI Bleed-
   -No evidence of recurrence and will continue to follow for signs of
   recurrence.
   4)Acute Renal Failure-
   -Will have to follow Cr. And limit diuresis for any obvious increase.
 HYPOGLYCEMIA
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-10-4**] 02:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2108-10-05 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -neuro saw him and don't suspect that there is any overt evidence for
   neuromuscular weakness although state this his sedation confounds their
   exam; doesn't have any evidence for myasthenia/any other overt
   neuromuscular diseases; would not get an EMG at this time until can
   re-evaluate once pt more cooperative
   -switched to pressure support: gas on PSV: 89 49* 7.47
   -undergoing spontaneous breathing trial in AM
   -in evening was 1800 in, 1500 out: gave 5 mg metolazone on top of 14
   mg/hr lasix drip
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-10-3**] 02:25 PM
   Vancomycin - [**2108-10-4**] 08:35 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-5**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 62 (60 - 62) bpm
   BP: 119/47(68) {89/37(54) - 120/116(118)} mmHg
   RR: 21 (14 - 36) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 97.3 kg (admission): 112.2 kg
             Total In:
                                                                  2,485 mL
                                                                    881 mL
   PO:
             TF:
                                                                  1,006 mL
                                                                    337 mL
   IVF:
                                                                    969 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    820 mL
   Urine:
                                                                  1,850 mL
                                                                    820 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                    495 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 449 (329 - 517) mL
   PS : 20 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.44/54/110/34/11
   Ve: 6.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Cardiovascular: Gen: sedated, responds to questions
   CV: RRR, nl S1 S2. [**3-2**] early systolic mumur radiating to the carotids
   Lungs: crackles at bases
   Abd: soft, ND NT ABS
   Ext: 1+ edema in lower extremties, 2+ edema in upper
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   9.2 g/dL
   175 mg/dL
   2.2 mg/dL
   34 mEq/L
   4.1 mEq/L
   53 mg/dL
   101 mEq/L
   139 mEq/L
   27.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2108-10-2**]  03:32 PM
                             [**2108-10-2**]  10:55 PM
                             [**2108-10-3**]  01:20 AM
                             [**2108-10-3**]  01:38 AM
                             [**2108-10-4**]  03:35 AM
                             [**2108-10-4**]  04:13 AM
                             [**2108-10-4**]  03:28 PM
                             [**2108-10-4**]  03:45 PM
                             [**2108-10-5**]  03:45 AM
                             [**2108-10-5**]  04:32 AM
   WBC
   5.2
   7.8
   6.7
   Hct
   28.5
   29.6
   27.6
   Plt
   [**Telephone/Fax (3) 10619**]
   Cr
   1.7
   1.7
   1.8
   2.2
   TCO2
   36
   36
   37
   37
   37
   38
   Glucose
   [**Telephone/Fax (3) 10620**]61
   175
   Other labs: PT / PTT / INR:16.9/32.6/1.5, Albumin:2.2 g/dL, Ca++:7.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: LLL collapse, right lower lobe atelectasis vs
   consolidation
   Microbiology: sputum [**9-30**] - no growth
   Assessment and Plan
 HYPOGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   78 yom with hx of CHF, AF s/p staged PCI for acute CHF admitted with
   GIB in setting of anticoagulation for stent placement, now massively
   fluid overloaded s/p resuscitation requiring ventilator support.  Plan
   is now for aggressive diuresis and then planned extubation later this
   week.
   # Respiratory failure
 continued substantial pulmonary edema with
   retrocardiac atelectasis.  NST 10 (low).
   - tx course of PNA complete, most recent sputum showed no growth
   - continue aggressive diuresis with lasix gtt for goal of - 2 L/day
   titrate to BP.  Yesterday was -1.2 L: will continue lasix drip at 14
   cc/hr but add metolazone today to acheive diuresis goal.
   - continue chest PT with nebulizers
   - neurology doesn't recommend EMG at this time
   - reduce titrate pressure settings down, and attempt
   # Congestive Heart Failure
 patient with continued fluid overload
   state s/p aggressive resuscitation for GIB, now receiving aggressive
   diuresis; is overall -6 L negative, however clinically appears
   overloaded and radiologically pulm edema looks improved.
   - continued diuresis
   - continue digoxin for improved contractility (normal EF is 35%)
   - TTE shows 2+ MR: would not tolerate afterload reduction given low
   BPs; would consider adding this on after diuresis
   #Hypernatremia - Na stable between 139-141 last few days.
   - follow [**Hospital1 7**] lytes and treat hypernatremia with free water flushes PRN
   - reduce free water fluses from 150 q4 to q6 to reduce water intake
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 2.2(improving) from
   baseline 1.1.  Attempting to optimize forward flow with digoxin.  Renal
   failure seems to be resolving.   Worsening, likely due to  reduced
   diuresis.
   -nonoliguric: making good urine about 125 cc/hr
   - continue lasix gtt and add metolazone today to acheive diuresis goal
   following [**Hospital1 7**] lytes and Cr
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  HCT very slow trend down likely secondary to blood draws;
   currently at 27.6.  GIB stable.
   - Check daily HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.  Likely result of Integrilin.
   - continue to hold all heparin products
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Telemetry shows occasional pauses, EKG reveals non-specific ST changes;
   enzymes were stable.
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 patient currently in NSR, continue to hold
   anticoagulation in setting of recent GIB
   # Urine
 cultures pos. for MSSA on [**9-25**], continuing broad spectrum
   antibiotics which should cover the urine flora
   # Diabetes
 continue ISS
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF
   # ACCESS: PICC, right arterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code
   # Contact: [**Name (NI) **] - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-10-5**] 02:25 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2108-10-05 12:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   CHF
   Myocardial Infarction
   GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -PSV yesterday-->
   -Patient move to SBT today with ABG without change after 180 minutes.
   7.44/54/110
   -Patient negative 500 cc over night.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-10-3**] 02:25 PM
   Vancomycin - [**2108-10-4**] 08:35 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 14 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-5**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 63 (60 - 63) bpm
   BP: 123/51(72) {96/37(54) - 123/116(118)} mmHg
   RR: 30 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 97.3 kg (admission): 112.2 kg
             Total In:
                                                                  2,485 mL
                                                                  1,341 mL
   PO:
             TF:
                                                                  1,006 mL
                                                                    557 mL
   IVF:
                                                                    969 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                  1,840 mL
   Urine:
                                                                  1,850 mL
                                                                  1,840 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                    495 mL
                                                                   -499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 260 (260 - 517) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: 7.44/52/136/34/10
   Ve: 6.2 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), 3/6 SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   291 K/uL
   175 mg/dL
   2.2 mg/dL
   34 mEq/L
   4.1 mEq/L
   53 mg/dL
   101 mEq/L
   139 mEq/L
   27.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2108-10-2**]  10:55 PM
                             [**2108-10-3**]  01:20 AM
                             [**2108-10-3**]  01:38 AM
                             [**2108-10-4**]  03:35 AM
                             [**2108-10-4**]  04:13 AM
                             [**2108-10-4**]  03:28 PM
                             [**2108-10-4**]  03:45 PM
                             [**2108-10-5**]  03:45 AM
                             [**2108-10-5**]  04:32 AM
                             [**2108-10-5**]  10:32 AM
   WBC
   5.2
   7.8
   6.7
   Hct
   28.5
   29.6
   27.6
   Plt
   [**Telephone/Fax (3) 10619**]
   Cr
   1.7
   1.7
   1.8
   2.2
   TCO2
   36
   37
   37
   37
   38
   36
   Glucose
   [**Telephone/Fax (3) 10620**]61
   175
   Other labs: PT / PTT / INR:16.9/32.6/1.5, CK / CKMB /
   Troponin-T:58/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-Persistent LLL collapse--ETT good postion
   Microbiology: SPutum--[**9-30**]-NGTD
   Assessment and Plan
   78 yo male with admission for history of CAD and CHF now admitted in
   the setting of fall and signfiicant GI bleed with pesistent respiratory
   failure.  He has had stability of GI bleed and has been able to
   tolerate his anti-platelet agents.
   1)Respiratory Failure-He has shown capacity to tolerate SBT x 3 hours
   today and has been able to move to negative fluid balance with lasix
   GTT in place. Have been treating for possible pneumonia.  He has had 9
   Kg decrease in weight from diuresis
   -ABX completed
   -Continue diruesis
   -Move to extubate today and will have family members present at time as
   patient does not want to be re-intubated
   -Will need to support post extubation
   -He does have NIF that is decreased
   2)GI Bleed-
   -No evidence of active bleeding at this time
   -Follow HCT
   3)CHF-
   -Lasix 14mg/hr-we do have evidence that patient needs optimization
   peri-extubation.  Will move to even fluid balance today given rise in
   creatinine and look to decrease/end Lasix gtt.
   -Continue with afterload reduction discussion
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2108-10-5**] 02:25 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Arterial Line - [**2108-9-26**] 04:50 PM
   Prophylaxis:
   DVT: Boots
add SQ heparin in the setting of HIT negative
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed plans for extubation with patient
   and will look to have patient
s family in for timing of extubation.
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 40 minutes

2108-10-06 06:40:00 Physician Resident Progress Note
Chief Complaint:
   78 y.o male with past hx of CABGx2 15 years ago, acute exacerbation of
   CHF with systolic and diastolic dysfunction, Afib, and recent PCI now
   with acute GI bleed.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2108-10-5**] 08:15 PM
   -extubated
   -changed to CMO status
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2108-10-3**] 02:25 PM
   Vancomycin - [**2108-10-4**] 08:35 PM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Morphine Sulfate - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-10-5**] 02:06 PM
   Heparin Sodium (Prophylaxis) - [**2108-10-5**] 02:06 PM
   Midazolam (Versed) - [**2108-10-5**] 03:43 PM
   Morphine Sulfate - [**2108-10-5**] 06:26 PM
   Lorazepam (Ativan) - [**2108-10-5**] 08:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-6**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 73 (60 - 81) bpm
   BP: 96/39(54) {96/36(54) - 146/56(77)} mmHg
   RR: 13 (10 - 38) insp/min
   SpO2: 88%
   Heart rhythm: V Paced
   Wgt (current): 97.3 kg (admission): 112.2 kg
             Total In:
                                                                  1,478 mL
                                                                    114 mL
   PO:
             TF:
                                                                    539 mL
   IVF:
                                                                    489 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    240 mL
   Urine:
                                                                  3,130 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,652 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 250 (234 - 505) mL
   PS : 20 cmH2O
   RR (Spontaneous): 42
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 85
   PIP: 15 cmH2O
   SpO2: 88%
   ABG: 7.49/49/92.[**Numeric Identifier 132**]/34/12
   Ve: 12.3 L/min
   PaO2 / FiO2: 266
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291 K/uL
   9.2 g/dL
   175 mg/dL
   2.2 mg/dL
   34 mEq/L
   4.1 mEq/L
   55 mg/dL
   98 mEq/L
   137 mEq/L
   27.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2108-10-3**]  01:38 AM
                             [**2108-10-4**]  03:35 AM
                             [**2108-10-4**]  04:13 AM
                             [**2108-10-4**]  03:28 PM
                             [**2108-10-4**]  03:45 PM
                             [**2108-10-5**]  03:45 AM
                             [**2108-10-5**]  04:32 AM
                             [**2108-10-5**]  10:32 AM
                             [**2108-10-5**]  02:24 PM
                             [**2108-10-5**]  02:34 PM
   WBC
   7.8
   6.7
   Hct
   29.6
   27.6
   Plt
   291
   291
   Cr
   1.7
   1.8
   2.2
   2.2
   TCO2
   37
   37
   37
   38
   36
   38
   Glucose
   198
   196
   161
   175
   Other labs: PT / PTT / INR:16.9/32.6/1.5, CK / CKMB /
   Troponin-T:58/12/0.16, Differential-Neuts:80.0 %, Band:0.0 %, Lymph:8.0
   %, Mono:5.0 %, Eos:2.0 %, Fibrinogen:409 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
 HYPOGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 THROMBOCYTOPENIA, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   78 yom with hx of CHF, AF s/p staged PCI for acute CHF admitted with
   GIB in setting of anticoagulation for stent placement, now massively
   fluid overloaded s/p resuscitation requiring ventilator support.
   Decision was made yesterday for CMO.
   # Respiratory failure
 continued substantial pulmonary edema with
   retrocardiac atelectasis.  NST 10 (low).
   - tx course of PNA complete, most recent sputum showed no growth
   - continue aggressive diuresis with lasix gtt for goal of - 2 L/day
   titrate to BP.  Yesterday was -1.2 L: will continue lasix drip at 14
   cc/hr but add metolazone today to acheive diuresis goal.
   - continue chest PT with nebulizers
   - neurology doesn't recommend EMG at this time
   - reduce titrate pressure settings down, and attempt
   # Congestive Heart Failure
 patient with continued fluid overload
   state s/p aggressive resuscitation for GIB, now receiving aggressive
   diuresis; is overall -6 L negative, however clinically appears
   overloaded and radiologically pulm edema looks improved.
   - continued diuresis
   - continue digoxin for improved contractility (normal EF is 35%)
   - TTE shows 2+ MR: would not tolerate afterload reduction given low
   BPs; would consider adding this on after diuresis
   #Hypernatremia - Na stable between 139-141 last few days.
   - follow [**Hospital1 7**] lytes and treat hypernatremia with free water flushes PRN
   - reduce free water fluses from 150 q4 to q6 to reduce water intake
   #Acute renal failure
 initially attributed to dye load from angiogram
   exacerbated by poor renal perfusion.  Cr now 2.2(improving) from
   baseline 1.1.  Attempting to optimize forward flow with digoxin.  Renal
   failure seems to be resolving.   Worsening, likely due to  reduced
   diuresis.
   -nonoliguric: making good urine about 125 cc/hr
   - continue lasix gtt and add metolazone today to acheive diuresis goal
   following [**Hospital1 7**] lytes and Cr
   # GIB
 patient initially presenting with GIB s/p anti-platelet agents
   s/p PCI.  HCT very slow trend down likely secondary to blood draws;
   currently at 27.6.  GIB stable.
   - Check daily HCT and coags with goal > 28
   - maintain active type and screen
   - will continue Plavix and ASA
   # Thrombocytopenia
 patient initially with acute drop in platelet
   levels in the setting of HIT Ig positive with low optical density (low
   risk).  Seratonin release assay pending.  Platelet count now stable and
   at baseline.  Likely result of Integrilin.
   - continue to hold all heparin products
   - continue to trend daily platelet levels
   - f/u serotonin release assay
   # CAD
 patient is s/p PCI and on anti-platelet agents for stent..
   Initial concern for bump of cardiac enzymes s/p self extubation.
   Telemetry shows occasional pauses, EKG reveals non-specific ST changes;
   enzymes were stable.
   - continue statin and anti-platelet agents unless evidence of active
   GIB
   # Atrial Fibrillation
 patient currently in NSR, continue to hold
   anticoagulation in setting of recent GIB
   # Urine
 cultures pos. for MSSA on [**9-25**], continuing broad spectrum
   antibiotics which should cover the urine flora
   # Diabetes
 continue ISS
   # FEN: [**Hospital1 7**] electrolytes with PRN repletion, TF
   # ACCESS: PICC, right arterial
   # PROPHYLAXIS: pneumoboots
   # CODE: Full code
   # Contact: [**Name (NI) **] - HCP [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10323**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2108-9-25**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: